US04592866
2-(2-Chloroethyl)-2,3-dihydro-2,4-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one hydrochloride
To a suspension of 60 g (60% in oil, 1.5 mole) of sodium hydride in 400 ml of tetrahydrofuran heated to reflux was added a solution of 110 g (0.70 mole) of 2-chloronicotinic acid and 80 g (0.70 mole) of 1,3-dimethyl-3-pyrrolidinol so as to maintain good reflux. Heating at reflux was continued overnight. The mass spectra showed very little product at this point; therefore, 400 ml of dimethylformamide was added and heating at 77° C. was continued overnight. Approximately 10% of the desired product was then observed by mass spectra. The tetrahydrofuran was evaporated by passing nitrogen gas over the reaction mixture while at the same time being replaced with dimethylformamide. The temperature was concomitantly increased to 100° C. The mixture was stirred overnight at 100° C. After cooling, no salt precipitated out; therefore, dimethylformamide was removed by rotary evaporation (90° C.; 5 mm). Approximately 250 g of crude salt was collected.

reactant | sodium hydride | 1.5 mole, 60 g | [H-].[Na+]
reactant | 2-chloronicotinic acid | 0.70 mole, 110 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 1,3-dimethyl-3-pyrrolidinol | 0.70 mole, 80 g | CN1CC(CC1)(O)C | C6H13NO
reactant | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-(2-Chloroethyl)-2,3-dihydro-2,4-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one hydrochloride | 10% | Cl.ClCCC1(OC2=C(C(N(C1)C)=O)C=CC=N2)C | InChI=1S/C12H15ClN2O2.ClH/c1-12(5-6-13)8-15(2)11(16)9-4-3-7-14-10(9)17-12;/h3-4,7H,5-6,8H2,1-2H3;1H
